US04169199
60 mg (0.17 mmol) of 3-methoxycarbonyl-4-(1-phenylthio-trans-2-octenyl)-oxolane-2-one was dissolved in 2 ml of hexamethyl phosphoric triamide in an argon atmosphere, and 36 mg (0.85 mmol) of lithium chloride was added to the solution followed by heating at a temperature of 100° C. for 5 hours with stirring. The reaction mixture was then allowed to cool to room temperature and decomposed with dilute hydrochloric acid. The mixture was extracted with ethyl acetate, and the extract was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. The mixture was filtered and the filtrated was concentrated under reduced pressure. The resulting residue was then purified by silica gel column chromatography to obtain 4-(1-phenylthio-trans-2-octenyl)-oxolane-2-one.

reactant | 3-methoxycarbonyl-4-(1-phenylthio-trans-2-octenyl)-oxolane-2-one | 0.17 mmol, 60 mg | COC(=O)C1C(OCC1C(\C=C\CCCCC)SC1=CC=CC=C1)=O | C20H26O4S
reactant | lithium chloride | 0.85 mmol, 36 mg | [Cl-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | hexamethyl phosphoric triamide | 2 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 4-(1-phenylthio-trans-2-octenyl)-oxolane-2-one | C1(=CC=CC=C1)SC(\C=C\CCCCC)C1CC(OC1)=O | C18H24O2S
